US04843087
Zinc dust (325 mesh, 60 g) was added in portions over 15 minutes to a solution of 43.8 g of 2-(4-methoxyphenyl)-4,5-dimethyloxazole N-oxide in 400 ml of acetic acid, stirred and heated on a steam bath. After an additional 15 minutes of heating, the reaction mixture was filtered and concentrated in vacuo. The residue was stirred with concentrated ammonium hydroxide and ethyl acetate. The layers were separated, the aqueous layer extracted with ethyl acetate, and the combined ethyl acetate solutions dried and concentrated to yield 32.6 g of 2-(4-methoxyphenyl)-4,5-dimethyloxazole as a yellow oil.

reactant | 2-(4-methoxyphenyl)-4,5-dimethyloxazole N-oxide | 43.8 g | COC1=CC=C(C=C1)C=1OC(=C([N+]1[O-])C)C | C12H13NO3
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 60 g | [Zn] | Zn
product | 2-(4-methoxyphenyl)-4,5-dimethyloxazole | 32.6 g | COC1=CC=C(C=C1)C=1OC(=C(N1)C)C | C12H13NO2
